US07592342B2
Preparation of 1,1-dimethylethyl [2-(4-{7-[5-(aminosulfonyl)-3-pyridinyl]-2-quinoxalinyl}-1-piperazinyl)ethyl]carbamate
A slurry of 1,1-dimethylethyl {2-[4-(7-bromo-2-quinoxalinyl)-1-piperazinyl]ethyl}carbamate (0.96 mmol), bis(pinacolato)diboron (1.06 mmol), potassium acetate (3.84 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.07 mmol) in 1,4-dioxane (5 ml) was heated at 100° C. After the reaction stirred for 1 hour, 5-bromo-3-pyridinesulfonamide (0.96 mmol) and 2M potassium carbonate (aq) (4 ml) was added and the reaction mixture stirred for 18 hours. The reaction was cooled to ambient temperature, separated the organic layer and purified directly on silica by column chromatography (10% ethyl acetate/hexanes). The desired fractions were combined and concentrated to give the title compound (20 mg, 7%) as a light yellow solid. MS(ES)+ m/e 514.2 [M+H]+.

reactant | 1,1-dimethylethyl {2-[4-(7-bromo-2-quinoxalinyl)-1-piperazinyl]ethyl}carbamate | 0.96 mmol | BrC1=CC=C2N=CC(=NC2=C1)N1CCN(CC1)CCNC(OC(C)(C)C)=O | C19H26BrN5O2
reactant | bis(pinacolato)diboron | 1.06 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.84 mmol | C(C)(=O)[O-].[K+]
reactant | 5-bromo-3-pyridinesulfonamide | 0.96 mmol | BrC=1C=C(C=NC1)S(=O)(=O)N | C5H5BrN2O2S
reactant | potassium carbonate | 2M, 4 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl [2-(4-{7-[5-(aminosulfonyl)-3-pyridinyl]-2-quinoxalinyl}-1-piperazinyl)ethyl]carbamate | 20 mg, 7% | NS(=O)(=O)C=1C=C(C=NC1)C1=CC=C2N=CC(=NC2=C1)N1CCN(CC1)CCNC(OC(C)(C)C)=O | C24H31N7O4S
